US07875647B2
Step 2: 4-chloro-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carbohydrazide
A solution of ethyl 4-chloro-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate (3.1 g, 7.2 mmol) in ethyl alcohol (30 ml) was added hydrazine (5 ml, 64% solution in water) in one portion. The reaction mixture was refluxed 100° C. for 6 hours, and then cooled down to room temperature. After volatile solvent was removed in reduced pressure, the residue was purified with silica gel column (5% methanol in methylene chloride) to obtained title compound (3 g, quantitatively) as slightly yellow solid.

reactant | ethyl 4-chloro-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate | 7.2 mmol, 3.1 g | ClC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C18H12Cl4N2O2
reactant | hydrazine | 5 ml | NN | H4N2
solvent | ethyl alcohol | 30 ml | C(C)O | C2H6O
product | 4-chloro-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carbohydrazide | ClC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)C(=O)NN | C16H10Cl4N4O
